US04536508
Methyl N-[2-(acetyloxy)acetyl]-1-methyl-2-(phenylmethylene)hydrazinecarboximidothioate
Methyl 1-methyl-2-(phenylmethylene)hydrazinecarboximidothioate, hydroiodide (1.34 g) was dissolved in saturated potassium carbonate solution and extracted with ether. The combined organic extracts were dried and evaporated to give an off-white solid which was dissolved in acetone (25 ml) and treated with potassium carbonate (1.1 g) followed by (acetyloxy)acetyl chloride (0.85 g). The suspension was stirred at room temperature for 2 h and evaporated in vacuo. The residue was suspended in water (50 ml) and filtered to give the title compound (1.01 g) which was recrystallised from ethanol, m.p. 115°-117°.

reactant | Methyl 1-methyl-2-(phenylmethylene)hydrazinecarboximidothioate, hydroiodide | 1.34 g | I.CN(N=CC1=CC=CC=C1)C(=N)SC
reactant | (acetyloxy)acetyl chloride | 0.85 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
product | Methyl N-[2-(acetyloxy)acetyl]-1-methyl-2-(phenylmethylene)hydrazinecarboximidothioate | 1.01 g | C(C)(=O)OCC(=O)N=C(SC)N(N=CC1=CC=CC=C1)C | C14H17N3O3S
